US07157487B2
In DMF (20 ml) were dissolved indole-3-carboxylic acid (1.00 g, 6.21 mmol) and 4-amino-3-bromophenylacetic acid (1.60 g, 6.21 mmol). To the resulting solution was added EDC HCl (1.43 g, 7.45 mmol) under stirring at room temperature. After the reaction mixture was stirred at room temperature for 4 hours, water was added thereto, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from ethyl acetate eluate fractions, ethyl (3-bromo-4-((3-indolylcarbonyl)amino)phenyl)acetate (664 mg, 27%) was obtained as a pale yellow solid.

reactant | indole-3-carboxylic acid | 6.21 mmol, 1.00 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 4-amino-3-bromophenylacetic acid | 6.21 mmol, 1.60 g | NC1=C(C=C(C=C1)CC(=O)O)Br | C8H8BrNO2
reactant | EDC HCl | 7.45 mmol, 1.43 g | CCN=C=NCCCN(C)C.Cl
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | ethyl (3-bromo-4-((3-indolylcarbonyl)amino)phenyl)acetate | 664 mg, 27% | BrC=1C=C(C=CC1NC(=O)C1=CNC2=CC=CC=C12)CC(=O)OCC | C19H17BrN2O3
